US05021431
N-Benzoyl-N'-[3-(imidazol-4-yl)propyl]-N"-(3-phenoxypropyl)-guanidine
The previously obtained solution of 6.1 mmol of N-benzoyl-N'-(3-phenoxypropyl)-O-phenyl-isourea is concentrated by evaporation under vacuum and the residue is dissolved in acetonitrile and then heated under reflux for 3 hours after the addition of 0.8 g (6.4 mmol) of 3-(imidazol-4-yl)-propylamine. The reaction mixture obtained is then concentrated by evaporation under vacuum, the residue is taken up with dilute hydrochloric acid and the aqueous solution is extracted three times with ether. After alkalisation with sodium hydroxide solution, the reaction product is extracted from the aqueous phase with methylene chloride, the extract obtained is concentrated by evaporation, and the reaction product is crystallised from the concentrated extract by means of ethyl acetate. 0.95 g (38%) of colourless solid melting at 149° C. after recrystallisation from ethanol/water is obtained.

reactant | N-benzoyl-N'-(3-phenoxypropyl)-O-phenyl-isourea | 6.1 mmol | C(C1=CC=CC=C1)(=O)NC(OC1=CC=CC=C1)=NCCCOC1=CC=CC=C1 | C23H22N2O3
reactant | 3-(imidazol-4-yl)-propylamine | 6.4 mmol, 0.8 g | N1C=NC(=C1)CCCN | C6H11N3
solvent | acetonitrile | C(C)#N | C2H3N
product | N-Benzoyl-N'-[3-(imidazol-4-yl)propyl]-N"-(3-phenoxypropyl)-guanidine | C(C1=CC=CC=C1)(=O)NC(=NCCCOC1=CC=CC=C1)NCCCC=1N=CNC1 | C23H27N5O2
